Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nursing home concerns
 
Major Surgical or Invasive Procedure:
PEG tube placement by ___ ___
Video Swallow evaluation by Speech Pathology
 
History of Present Illness:
Mr. ___ is a ___ male with PMH of recently
diagnosed ALS now residing at ___, presents to the
___ ED due to agitation/anxiety, transient abdominal pain, and
desire to be transferred to a different rehab facility

According to the ED record and my discussion with his sister on
the phone, in the evening of ___ per the rehab center he had
more anxiety/agitation and began hitting the wall. He initially
reported abdominal pain, but also had a large BM that was not
cleaned up for apparently a up to 2 hours. Due to family request
he was transferred to the ER. Patient and his sister have stated
that he does not want to go back to the rehab center.

Of note, his condition is made worse by his complex family
situation. His wife and children are ___ from ___,
currently residing in ___ and attempting to gain a visa to
come to ___.

In the ED, initial vitals were: 97.6 74 189/99 16 95% RA 
Exam notable for: Hypertonic with slow dysarthric speech likely
baseline given his ALS. normal cardiorespiratory and abdominal
exam. Patient is appropriate and conversive here without
agitation.
He reported in the ED: no chest pain/dyspnea/palpitations. no
abdominal pain, n/v/d. Passing urine normally but is incontinent
at baseline. 

Labs and urine negative for any abnormalities

Patient was given 650 mg of acetaminophen and 50 mg tramadol.

On transfer, vitals were  97.9 59 ___ 96% RA 

Decision was made to admit to medicine for CM evaluation for
placement.

On arrival to the floor, I was initially unable to obtain a full
ROS or history from the patient. He speaks minimal ___ so 
was
able to report R shoulder pain but no abdominal pain or other
discomfort. I attempted to use a telephone ___ interpreter,
but due to the patient's dysarthria and particular dialect, the
interpreter was unable to understand him. I subsequently spoke
with his sister ___ who confirmed the above story. She was
also under the impression that he had abdominal pain but was
unclear of any further details.

I also spoke with his outpatient neurology neuromuscular fellow
who confirmed that since he was placed at ___ in ___, he
has been upset with ___ and ___ not wanted to be there, but
has needed to stay due to his progressive weakness and inability
to be home. They have been trying to get him into the ___ house, which is a special ___ rehab, and he 
is
on the waitlist. She also reported that they have been working 
up
a new orthopnea that she feels is related to his ALS, and have
also wanted to schedule a time for a PEG tube placement given
ongoing concerns for dysphagia. He has been on a modified diet
for dysphagia with nectar thick liquids, soft solids.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were not able to be reviewed due to dysarthria and
lack of appropriate interpreter. Will obtain a more full ROS 
when
sister arrives.

PAST MEDICAL/SURGICAL HISTORY:
ALS
HTN

SOCIAL HISTORY:
He worked as a ___ and ___ and inhaled noxious 
fumes. He had to stop because of the symptoms. He was living 
with

his sister for the last ___ years until recently when he was
transitioned to ___. Former smoker, quit ___, 
had been smoking since age ___. Never alcohol, nor drug use. 
Originally from ___, came to the ___ in ___.           
His mother is currently on hospice, brother-in-law (sister 
___ husband) also very ill, and his family is currently 
in
___ and unable to come to the ___ until they obtain a Visa.
Neurology team ___ fellow) have been
in touch with ___ ___ office and the family is working
on getting paperwork to send there to try to get his family 
here.
 
Past Medical History:
ALS
HTN
 
Social History:
___
Family History:
No family history of ALS. No family history of neurologic 
disease. No history of dementia. 
 
Physical Exam:
ADMISSION EXAM:
===================

VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress, lying comfortably in
bed. Dysarthric speech but able to articulate simple answers in
___.
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation. No foley
in place.
MSK: Unable to participate in full strength exam given language
barrier- will attempt later with sister.
SKIN: No rashes or ulcerations noted
NEURO: Unable to participate in full neurologic exam given
language barrier- will attempt later with sister.
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
====================
Vital Signs: reviewed in OMR afebrile and hemodynamically stable
General: no acute distress
HEENT: atraumatic, anicteric, eomi, oropharynx clear
Neck: supple
Heart: s1 s2
Lungs: ctab
Abdomen: soft nt nd no masses
Ext: no c/c/e
Neuro: aaox2 (not to date) which is his baseline
Psych: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
==================

___ 03:05AM BLOOD WBC-6.4 RBC-4.53* Hgb-13.9 Hct-42.4 
MCV-94 MCH-30.7 MCHC-32.8 RDW-13.0 RDWSD-44.4 Plt ___
___ 03:05AM BLOOD Neuts-62.9 ___ Monos-8.6 Eos-1.1 
Baso-0.5 Im ___ AbsNeut-4.04 AbsLymp-1.71 AbsMono-0.55 
AbsEos-0.07 AbsBaso-0.03
___ 03:05AM BLOOD Glucose-93 UreaN-13 Creat-0.6 Na-140 
K-4.4 Cl-103 HCO3-27 AnGap-10

MICRO:
=================
___ 2:40 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >100,000 CFU/mL. 

IMAGING:
=================

___ CHEST XRAY

Comparison to ___.  Lung volumes have slightly 
decreased.  There
is a new parenchymal opacity in the left lower lobe, with air 
bronchograms and
ill-defined borders, the location and morphology would be 
consistent with
aspiration pneumonia.  Borderline size of the cardiac silhouette 
without
pulmonary edema.  No pleural effusions.  No pneumothorax.

___ HEAD CT

FINDINGS: 
 
There is no evidence of infarction, hemorrhage, edema, or mass. 
The ventricles
and sulci are normal in size and configuration.
 
No osseous abnormalities seen. The paranasal sinuses, mastoid 
air cells, and
middle ear cavities are clear apart from minimal mucosal 
thickening of the
right maxillary sinus.  The orbits are unremarkable.
 
IMPRESSION: 
 
No acute intracranial abnormality.
 
Brief Hospital Course:
This is a ___ male with past medical history of ALS 
admitted ___ with abdominal pain, subsequently found to 
have constipation, now status post resolution of constipation, 
discharged to rehab.

#Abdominal pain:
#Constipation:
Patient presented with abdominal pain, thought to be from 
constipation.  Treated with bowel regimen with good effect.  
Subsequently he had regular bowel movements with resolution of 
symptoms--they did not recur.  Maintained on daily miralax, with 

prn Bisacodyl, then if not moving bowels prn fleet enema, then 
if not moving bowels prn Magnesium Citrate 300mL.  At discharge 
he was pain free.

# Dysphagia secondary to ALS 
During this admission patient had PEG electively placed.  He was 
seen by SLP and recommended to continue his modified diet.  He 
was seen by nutrition and underwent a calorie count.  He was 
felt to still be able to meet his nutritional needs with oral 
intake--this was dependent on attentive assisted feedings, with 
supplements: Magic Cup TID, Skandishake. 

A video swallow study was performed by Speech pathology and 
advised the following:

1. Diet: Pureed solids with nectar-thick liquids
2. Meds: whole or crushed in puree
3. Recommend allowing the patient to participate in the ___
Free Water protocol: 
     -Between meals, after oral care, allow the patient to drink
thin liquid water for comfort/quality of life. Continue to 
adhere
to the below aspiration precautions. 
4. Frequent oral care: Before and after meals; prior to 
allowance
of thin liquid water as above. 
5. Aspiration precautions: 
     - 1:1 feeding assistance
     - Fully upright for all meals
     - NO STRAWS; small, single sips of thin liquid via cup ONLY
     - Alternate bites and sips

# ALS
Home regimen of riluzole and Nudexta unable to be continued 
while admitted since family did not bring in, and they are 
non-formulary.  Restarted at discharge.

# BPH 
Continued Tamsulosin 

# Depression 
Continued Sertraline 

# R shoulder pain
Continued prn tramadol 

Transitional issues
-  Discharged to rehab
-  Outpatient neurology team is ___; and 
___
-  Please utilize assisted feedings to ensure he is taking in 
adequate nutrition; please check weights 3 times per week to 
ensure he is meeting nutritional needs via PO intake; when 
patient no longer felt to be able to meet nutritional needs via 
PO intake, ___ nutrition recommends the following: 
- Tube feeds:  Jevity 1.5 starting @ 10 mL/hr and advance to 
goal
of 55ml/hr (1980kcal, 84g protein and ~1L free water/day) 
     -Flush with 175ml H20 q6h (total ~1.7L free water/day )
- Monitor tolerance via abdominal exam, stool output and patient
complaint
- Cycle: Jevity 1.5 @ 110 mL/hr x 12 hrs 
- Bolus: 5.5 cans/day (1320 mL) 
- Adjust tube feeds based on % calories from po 

> 30 minutes spent on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever 
2. LORazepam 0.5 mg PO DAILY:PRN anxiety 
3. Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line 
4. magnesium hydroxide 400 mg (170 mg) oral DAILY:PRN 
constipation 
5. sodium phosphates 7.2-2.7 gram/15 mL oral DAILY:PRN 
constipation 
6. dextromethorphan-quinidine ___ mg oral BID 
7. riluzole 50 mg oral BID 
8. TraMADol 50 mg PO QHS 
9. Aspirin 81 mg PO DAILY 
10. Tamsulosin 0.4 mg PO QHS 
11. Sertraline 150 mg PO DAILY 
12. Polyethylene Glycol 17 g PO DAILY 
13. TraMADol 25 mg PO BID:PRN Pain - Moderate 
14. Magnesium Citrate 300 mL PO DAILY:PRN constipation ___ line 

 
Discharge Medications:
1.  Artificial Tears ___ DROP BOTH EYES Q4H:PRN dry eyes  
2.  Fleet Enema (Saline) ___AILY:PRN constipation ___ 
line  
3.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever  
4.  Aspirin 81 mg PO DAILY  
5.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line  
6.  dextromethorphan-quinidine ___ mg oral BID  
7.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
8.  Magnesium Citrate 300 mL PO DAILY:PRN constipation ___ line  

9.  Polyethylene Glycol 17 g PO DAILY  
10.  riluzole 50 mg oral BID  
11.  Sertraline 150 mg PO DAILY  
12.  Tamsulosin 0.4 mg PO QHS  
13.  TraMADol 50 mg PO QHS 
RX *tramadol 50 mg 1 tablet(s) by mouth at bedtime Disp #*2 
Tablet Refills:*0 
14.  TraMADol 25 mg PO BID:PRN Pain - Moderate 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth twice a day 
Disp #*3 Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Dysphagia secondary to ALS 
# Abdominal pain secondary to constipation
# ALS
# BPH 
# Depression 
# R shoulder pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Mr. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with abdominal pain from constipation.  You were treated with 
laxatives and it improved.  

While you were admitted, you had a PEG tube placed to help with 
feeding in the future. We did not start any tube feeds because 
you were able to meet your nutritional needs by eating. A video 
swallow evaluation was performed by speech pathology and a 
pureed solid/nectar thick liquid regular diet advised (no pork 
or milk). 

We wish you the best.

Sincerely,
Your care team at ___
 
Followup Instructions:
___